US04567172
11β-Hydroxy-6α-methyl-17α-methylthioacetoxy-21-propionyloxy-1,4-pregnadiene-3,20-dione
Using 232 mg of 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione obtained according to the method as described in Example 42, the reaction with propionic anhydride was carried out in the same manner as described in Example 18 with exception that triethylamine was used instead of pyridine, and the reaction mixture was treated in the same manner as described in Example 7 whereby 224 mg (yield: 86.5%) of the title compound was obtained as colorless needle crystals.

reactant | 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 232 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C25H34O5S
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 11β-Hydroxy-6α-methyl-17α-methylthioacetoxy-21-propionyloxy-1,4-pregnadiene-3,20-dione | 224 mg, yield: 86.5% | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(CC)=O)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C28H38O6S
